US09216968B2
Methyl 2-[2-oxo-2-(pyrrolidin-1-yl)ethyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate
Pyrrolidine (1 mL) was added to methyl 2-(2-ethoxy-2-oxoethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate (80 mg), and the solution was stirred at 70° C. for 30 minutes. The reaction mixture was diluted with ethyl acetate, and washed with brine. The ethyl acetate layer was concentrated under reduced pressure. The residue was purified on column chromatography to obtain the titled compound (74 mg) as white powder.

reactant | Pyrrolidine | 1 mL | N1CCCC1 | C4H9N
reactant | methyl 2-(2-ethoxy-2-oxoethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate | 80 mg | C(C)OC(CC1=NC2=C(N1)C=C(C=C2C(=O)OC)NC(=O)C2=C(C=CC=C2)C(F)(F)F)=O | C21H18F3N3O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[2-oxo-2-(pyrrolidin-1-yl)ethyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate | 74 mg | O=C(CC1=NC2=C(N1)C=C(C=C2C(=O)OC)NC(=O)C2=C(C=CC=C2)C(F)(F)F)N2CCCC2 | C23H21F3N4O4
